US07541372B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-5-(2,4,5-trifluoro-phenyl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (4.18 g, 19.2 mmol) was converted using 2,4,5-trifluorobenzoic acid instead of o-toluic acid to the title compound (3.16 g, 46%) which was obtained as a white solid. MS: m/e=358.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 19.2 mmol, 4.18 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2,4,5-trifluorobenzoic acid | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-5-(2,4,5-trifluoro-phenyl)-[1,3,4]oxadiazole | 3.16 g, 46% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1OC(=NN1)C1=C(C=C(C(=C1)F)F)F | C18H10F3N3O2
